US06358973B1
2-(3-Methoxy-phenyl)-4-methyl-pentylamine
By working in a way similar to that described in example 17 but using LiAlH4 (0.7 g, 0.018 moles) in anhydrous ethyl ether (35 ml) and 2-(3-methoxy-phenyl)-4-methyl-pentan-nitrile (3.8 g, 0.018 moles), obtained as described in example 20, in anhydrous ethyl ether (35 ml), 3.5 g of the title compound were obtained (yield: 90.4%).

reactant | LiAlH4 | 0.018 moles, 0.7 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-(3-methoxy-phenyl)-4-methyl-pentan-nitrile | 0.018 moles, 3.8 g | COC=1C=C(C=CC1)C(C#N)CC(C)C | C13H17NO
solvent | ethyl ether | 35 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 35 ml | C(C)OCC | C4H10O
product | 2-(3-Methoxy-phenyl)-4-methyl-pentylamine | 3.5 g, yield: 90.4% | COC=1C=C(C=CC1)C(CN)CC(C)C | C13H21NO
